US05877174
A mixture of 1.0 g of 1-(2,4-dimethoxybenzyl)-2,3-dioxopiperazine, 0.28 ml of 1,8-diazabicyclo[5.4.0]-undec-7-ene, 0.34 ml of methyl acrylate and 10 ml of N,N-dimethylformamide was stirred at room temperature for 12 hours. Then, the solvent was distilled off under reduced pressure, after which the resulting residue was added to a mixed solvent of 30 ml of ethyl acetate and 30 ml of water, and the pH was adjusted to 3 with 2N hydrochloric acid. The organic layer was separated and the aqueous layer was extracted with three 30-ml portions of ethyl acetate. The combined organic layer was washed with water and then a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent; chloroform: methanol=20:1) to obtain 0.68 g of methyl 3-[4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazin-1-yl]propionate as a colorless oil.

reactant | 1-(2,4-dimethoxybenzyl)-2,3-dioxopiperazine | 1.0 g | COC1=C(CN2C(C(NCC2)=O)=O)C=CC(=C1)OC | C13H16N2O4
reactant | 1,8-diazabicyclo[5.4.0]-undec-7-ene | 0.28 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl acrylate | 0.34 ml | C(C=C)(=O)OC | C4H6O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl 3-[4-(2,4-dimethoxybenzyl)-2,3-dioxopiperazin-1-yl]propionate | 0.68 g | COC1=C(CN2C(C(N(CC2)CCC(=O)OC)=O)=O)C=CC(=C1)OC | C17H22N2O6
